US07253164B2
[1-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl]-acetic acid tert-butyl ester (0.19 mmol) is dissolved in 1.5 mL of TFA and heated to 100° C. for 3 hours. The mixture is cooled down to room temperature and concentrated. The residue is treated with NaOH (1N) (1 mL) and extracted with EtOAc (3×1 mL). The aqueous layer is then neutralized to pH=2 with HCl (1M) and extracted with EtOAc (3×2 mL). The organic layers resulted from this extraction is concentrated to provide the crude (2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl)-acetic acid. Yield: 72%.

reactant | [1-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl]-acetic acid tert-butyl ester | 0.19 mmol | C(C)(C)(C)OC(CC1CCC2=C(N(C1=O)CC1=CC=C(C=C1)OC)C=CC=C2)=O | C24H29NO4
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl)-acetic acid | Yield: 72% | O=C1C(CCC2=C(N1)C=CC=C2)CC(=O)O | C12H13NO3
